US06403818B1
To a solution of p-tolualdehyde (131 mg, 1.0 mmol) and 1 (216 mg, 1.2 mmol) in acetonitrile (3 ml) was added n-butylamine (80 mg, 1.1 mmol) at 0° C. After stirring for 5 min, the reaction mixtures was added dropwise THF solution of tetrabutylammonium fluoride (1.0 N, 1.5 ml, 1.5 mmol), and then stirred at 0° C. for 20 min. The resulting reaction solution was concentrated and purified with silica gel column chromatography by using hexane-ethyl acetate (3/1) as an eluent to give N-butyl-2-hydroxy-2-(4-methylphenyl)acetamide as a colorless powder (218 mg, 0.94 mmol, 94%).

reactant | p-tolualdehyde | 1.0 mmol, 131 mg | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | n-butylamine | 1.1 mmol, 80 mg | C(CCC)N | C4H11N
reactant | THF | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1.5 mmol, 1.0 N, 1.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | N-butyl-2-hydroxy-2-(4-methylphenyl)acetamide | 0.94 mmol, 218 mg, 94% | C(CCC)NC(C(C1=CC=C(C=C1)C)O)=O | C13H19NO2
